US07671055B2
Step B Synthesis of 4-(2,2-dimethyl-2,3-dihydrobenzo[2,3-b]furan-7-yloxy)butan-1-ol as an intermediate
With stirring, a solution of 2.24 grams (0.056 mole) of sodium ydroxide in 125 mL of methanol was added 8.0 grams (0.028 mole) of 4-(2,2-dimethyl-2,3-dihydrobenzo[2,3-b]furan-7-yloxy)butyl acetate. Upon completion of addition the reaction mixture was stirred at ambient temperature during a three-hour period. After this time 150 mL of water was added to the reaction mixture, and the mixture was acidified to a pH of 6 with concentrated hydrochloric acid. The mixture was then extracted with four 50 mL portions of diethyl ether. The combined extracts were washed with one 50 mL portion of water, dried with sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure, yielding 5.6 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | sodium | 0.056 mole, 2.24 grams | [Na] | Na
reactant | 4-(2,2-dimethyl-2,3-dihydrobenzo[2,3-b]furan-7-yloxy)butyl acetate | 0.028 mole, 8.0 grams | C(C)(=O)OCCCCOC1=CC=CC2=C1OC(C2)(C)C | C16H22O4
reactant | water | 150 mL | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 125 mL | CO | CH4O
product | 4-(2,2-dimethyl-2,3-dihydrobenzo[2,3-b]furan-7-yloxy)butan-1-ol | 5.6 grams | CC1(CC2=C(O1)C(=CC=C2)OCCCCO)C | C14H20O3
